US05506235
4-Dodecylamino-2-methylquinolin-6-ol Hydrochloride Hydrate
In a manner similar to that described in Example 39, Part B, 4-chloro-2-methylquinolin-6-ol and dodecylamine were transformed into the title compound: m.p. 198°-203° C.

reactant | 4-chloro-2-methylquinolin-6-ol | ClC1=CC(=NC2=CC=C(C=C12)O)C | C10H8ClNO
reactant | dodecylamine | C(CCCCCCCCCCC)N | C12H27N
product | 4-Dodecylamino-2-methylquinolin-6-ol Hydrochloride Hydrate | O.Cl.C(CCCCCCCCCCC)NC1=CC(=NC2=CC=C(C=C12)O)C | InChI=1S/C22H34N2O.ClH.H2O/c1-3-4-5-6-7-8-9-10-11-12-15-23-22-16-18(2)24-21-14-13-19(25)17-20(21)22;;/h13-14,16-17,25H,3-12,15H2,1-2H3,(H,23,24);1H;1H2
